* Adder Subtractor with Mux Subcircuit
.lib '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
* 2-to-1 Mux
.subckt mux2 I0 I1 S0 out_or1 VGND VPWR
Xand11 I0 out_inv1 VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand21 I1 S0 VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xinv11 S0 VGND VGND VPWR VPWR out_inv1 sky130_fd_sc_hd__inv_1
Xor11 out_and1 out_and2 VGND VGND VPWR VPWR out_or1 sky130_fd_sc_hd__or2_1
.ends
*
* MUX gate Instance
*Xmux2 I0 I1 S0 out_or2 VGND VPWR mux2
*
* Full adder subcircuit 
* https://en.wikipedia.org/wiki/Adder_(electronics)#/media/File:Full-adder_logic_diagram.svg
.subckt fa A B Cin S Cout VGND VPWR
Xxor1 A B VGND VGND VPWR VPWR out_xor1 sky130_fd_sc_hd__xor2_1
Xxor2 out_xor1 Cin VGND VGND VPWR VPWR S sky130_fd_sc_hd__xor2_1
Xand1 out_xor1 Cin VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand2 A B VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xor1 out_and1 out_and2 VGND VGND VPWR VPWR Cout sky130_fd_sc_hd__or2_1
.ends
*
* Full adder instance
*Xadder1 A B Cin S Cout VGND VPWR fa
*
* 4 bit Adder Subtractor
* https://en.wikipedia.org/wiki/Adder%E2%80%93subtractor#/media/File:4-bit_ripple_carry_adder-subtracter.svg
.subckt fa1 A0 A1 A2 A3 B0 B1 B2 B3 D S0 S1 S2 S3 C4 VGND VPWR
Xfa1 mux2_0_out B0 D S0 C1 VGND VPWR fa
Xinv1 A0 VGND VGND VPWR VPWR notA0 sky130_fd_sc_hd__inv_1
Xmux2 A0 notA0 D VGND VPWR mux2_0_out mux2
*
Xfa2 mux2_1_out B1 D S1 C2 VGND VPWR fa
Xinv2 A1 VGND VGND VPWR VPWR notA1 sky130_fd_sc_hd__inv_1
Xmux21 A1 notA1 D VGND VPWR mux2_1_out mux2
*
Xfa3 mux2_2_out B2 D S2 C3 VGND VPWR fa
Xinv3 A2 VGND VGND VPWR VPWR notA2 sky130_fd_sc_hd__inv_1
Xmux22 A2 notA2 D VGND VPWR mux2_2_out mux2
*
Xfa4 mux2_3_out B3 D S3 C4 VGND VPWR fa
Xinv4 A3 VGND VGND VPWR VPWR notA3 sky130_fd_sc_hd__inv_1
Xmux23 A3 notA3 D VGND VPWR mux2_3_out mux2
.ends
*
* 4 bit Adder Subtractor Instance
Xaddsub A0 A1 A2 A3 B0 B1 B2 B3 D S0 S1 S2 S3 C4 VGND VPWR fa1
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd
* A(0,1,2,3)= 1011
* B(0,1,2,3)= 0110 or 0011
* First Example: I(0,1,2,3)= 1011
* Second Example: I(0,1,2,3)= 0011
* Third Example: I(0,1,2,3)= 1010
* S0 = 0
* S1 = 1
VA0 A0 0 vd
VA1 A1 0 0
VA2 A2 0 vd
VA3 A3 0 vd
VB0 B0 0 vd
VB1 B1 0 vd
VB2 B2 0 vd
VB3 B3 0 vd
VD0 D 0 vd
*
*VNotA0 notA0 0 0
*VNotA1 notA1 0 0
*VNotA2 notA2 0 0
*VNotA3 notA3 0 0
*
VI0 I0 0 vd
VI1 I1 0 0
*VI2 I2 0 vd
*VI3 I3 0 vd
*VS0 S0 0 0
*VS1 S1 0 0
*
.tran 1ps 10ns
*
.control
run
plot v(A0) v(A1) v(A2) v(A3) ylimit -1 3
plot v(B0) v(B1) v(B2) v(B3) ylimit -1 3
*
plot v(I0) v(I1) ylimit -1 3
plot v(S0) ylimit -1 3
plot v(S1) ylimit -1 3
plot v(S2) ylimit -1 3
plot v(S3) ylimit -1 3
.endc
*
.END

 
