* AND subcircuit 
.subckt and A1 A2 A3 A4 B1 B2 B3 B4 out_and1 out_and2 out_and3 out_and4 VGND VPWR
* 4-input AND gate from 3 2-input AND gates 
Xand1 A1 B1 VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand2 A2 B2 VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xand3 A3 B3 VGND VGND VPWR VPWR out_and3 sky130_fd_sc_hd__and2_1
Xand4 A4 B4 VGND VGND VPWR VPWR out_and4 sky130_fd_sc_hd__and2_1
.ends
*
