* 4-input AND gate from 3 2-input AND gates 
Xand1 A1 B1 VGND VGND VPWR VPWR out_and1 sky130_fd_sc_hd__and2_1
Xand2 A2 B2 VGND VGND VPWR VPWR out_and2 sky130_fd_sc_hd__and2_1
Xand3 A3 B3 VGND VGND VPWR VPWR out_and3 sky130_fd_sc_hd__and2_1
Xand4 A4 B4 VGND VGND VPWR VPWR out_and4 sky130_fd_sc_hd__and2_1
*
