* Logical Unit
.lib '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include '/home/adept/Desktop/caravel_mpw7/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'
*
.param vd=1.8V
*
.include /home/adept/Desktop/ngSpice/Example_!/four_and_subcircuit2.net
*.include /home/adept/Desktop/ngSpice/Example_!/four_or_subcircuit.net
*.include /home/adept/Desktop/ngSpice/Example_!/four_xor_subcircuit.net
*.include /home/adept/Desktop/ngSpice/Example_!/four_inv_subcircuit.net
*.include /home/adept/Desktop/ngSpice/Example_!/mux_subcircuit.net
*
VVDD VDD 0 vd
Vgnd VGND 0 0
Vdd VPWR VGND vd
* A(1,2,3,4)= 1011
* B(1,2,3,4)= 0011 or 0010
* S0 = 0
* S1 = 1
VA1 A1 0 vd
VA2 A2 0 0
VA3 A3 0 vd
VA4 A4 0 vd
VB1 B1 0 0
VB2 B2 0 0
VB3 B3 0 vd
VB4 B4 0 vd
*VS0 S0 0 0
*VS1 S1 0 vd
*
.tran 1ps 10ns
*
.control
run
plot v(A1) v(A2) v(A3) v(A4) ylimit -1 3
plot v(B1) v(B2) v(B3) v(B4) ylimit -1 3
*plot v(S0) v(S1) ylimit -1 3
plot v(out_and1) ylimit -1 3 
plot v(out_and2) ylimit -1 3 
plot v(out_and3) ylimit -1 3 
plot v(out_and4) ylimit -1 3
.endc
*
.END
